Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Cesarean Scar Ectopic
 
Major Surgical or Invasive Procedure:
methotrexate IM/intragestational sac injection 
dilation and curretage

 
History of Present Illness:
___ G4P2 at 7w2d by LMP with light vaginal bleeding since
last night found to have concern for cesarean scar ectopic on
radiology ultrasound today. Hcg 26,103. This is an unplanned but
wanted pregnancy.  Denies pain, cramping, nausea, vomitting. She
reports continued spotting. No dizziness, lightheadedness,
palpitations.

 
Past Medical History:
OBHx:
- G4P2
- G1: SAB ___ ___
- G2: ___, LTCS for arrest of dilation
- G3: ___ elective repeat LTCS
- G4: current
 
GynHx:
- denies

PMH: 
- denies
 
PSH: 
- LTCS x2
 
Meds: 
- PNV
 
All:
- NKDA 

 
Social History:
Hx: 
- Married
- Denies T/E/D

 
Physical Exam:
Initial PE:
Gen: NAD
Pulm: no evidence of respiratory distress
Abd: soft, nt, nd

Discharge PE:
Gen: NAD
Pulm: no evidence of respiratory distress
Abd: soft, NT, ND
Ext: no c/c/e
GU: vagnial bleeding minimal

 
Pertinent Results:
___ 03:20PM   UREA N-13 CREAT-0.6
___ 03:20PM   estGFR-Using this
___ 03:20PM   ALT(SGPT)-8 AST(SGOT)-12
___ 03:20PM   WBC-8.5 RBC-4.27 HGB-13.1 HCT-37.0 MCV-87# 
MCH-30.7 MCHC-35.4* RDW-12.7
___ 03:20PM   PLT COUNT-243
___ 03:58PM   ___
 
Brief Hospital Course:
The patient was admitted on ___ for a Cesarean Scar ectopic, 
which was confirmed on transabdominal ultrasound.

The patient received an intragestational sac injection of 
methotrexate under ultrasound guidance, as well as an initial 
dose of MTX IM. Subsequently, the patient was monitored in 
house, and her HCGs were trended serially. She received a total 
of 3 additional doses of MTX every other day, for a total of 4 
doses while in-house. She received leukovorin between her doses 
of MTX.

Her HCG had dropped >15% on ___, so no further MTX was needed. 
However, given that her HCG remained high at ___ on ___, we 
proceeded with a dilation and suction curretage for the 
evacuation of the pregnancy. The procedure was uncomplicated, 
and please refer to the operative report for full details. She 
received cytotec and methergine as uterotonics.

On the day of discharge on ___, the hcg was 8155. The patient 
was discharged in stable condition, ambulating, voiding, 
tolerating a regular diet with minimal pain. She is scheduled 
for follow-up and will receive weekly blood draws until her hcg 
is <5. 

 
Medications on Admission:
none
 
Discharge Medications:
1. Acetaminophen ___ mg PO Q6H:PRN pain 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every 6 hrs Disp 
#*20 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
cesarean scar ectopic pregnancy 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital with cesarean scar ectopic 
pregnancy and was treated with methotrexate. Your HCG levels 
decreased appropriately and you had a D&C for the removal of the 
ectopic pregnancy.

You will need to follow up with weekly HCG lab draws to make 
sure it continues to decrease appropriately. It is now safe for 
you to be discharged home.

Please get your first blood draw on ___ at ___
Then, you will meet with Dr. ___ on ___ at 14:30
 
Followup Instructions:
___